US08530470B2
TSTU (6.55 g, 21.74 mmol) was added to a stirred solution of 8-bromo-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (7 g, 19.77 mmol) and DIPEA (3.79 mL, 21.74 mmol) dissolved in DCM (100 mL) under nitrogen. The resulting suspension was stirred at room temperature for 4 h. More TSTU (6.55 g, 21.74 mmol) and DIPEA (3.79 mL, 21.74 mmol) were added and stirring was pursued for a further 16 h. The reaction mixture was quenched with a saturated aqueous solution of sodium hydrogencarbonate and extracted with DCM and a little MeOH. The combined organic phases were dried over MgSO4, concentrated and purified by flash chromatography on silica gel eluting with 3 to 5% MeOH in DCM. The solvent was evaporated to dryness to afford 8-bromo-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (7.70 g, 102%) as a beige solid. Mass Spectrum: m/z [M+H]+=381.

reactant | TSTU | 21.74 mmol, 6.55 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | 8-bromo-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 19.77 mmol, 7 g | BrC=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C14H12BrNO5
reactant | DIPEA | 21.74 mmol, 3.79 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TSTU | 21.74 mmol, 6.55 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | DIPEA | 21.74 mmol, 3.79 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 8-bromo-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 7.70 g, 102% | BrC=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C16H17BrN2O4
